US09216173B2
A flask containing a mixture of 2-(2-chloro-6-methylpyridin-4-yl)propan-2-ol (303 mg, 1.63 mmol), tris(dibenzylideneacetone)dipalladium(0) (149 mg, 0.163 mmol), Xantphos (189 mg, 0.326 mmol), and cesium carbonate (798 mg, 2.45 mmol) was purged with argon for 5 minutes. To this mixture was added 2,4-dimethoxybenzylamine (0.983 mL, 6.53 mmol) and 1,4-dioxane (7 mL). The reaction mixture was purged with argon for 5 minutes, and then heated to 100° C. After 4 hours, the reaction mixture was cooled, diluted with ethyl acetate (50 mL), filtered through CELITE, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0-60% ethyl acetate/hexanes, linear gradient) to afford 2-{2-[(2,4-dimethoxybenzyl)amino]-6-methylpyridin-4-yl}propan-2-ol. MS ESI calc'd. for C18H25N2O3 [M+H]+ 317. found 317. 1H NMR (500 MHz, DMSO-d6) δ 7.12 (d, J=8.5 Hz, 1H), 6.51 (d, J=2.5 Hz, 1H), 6.44-6.40 (m, 2H), 6.38 (d, J=7.0 Hz, 2H), 4.90 (s, 1H), 4.30 (d, J=5.5 Hz, 2H), 3.78 (s, 3H), 3.71 (s, 3H), 2.19 (s, 3H), 1.29 (s, 6H).

reactant | 2-(2-chloro-6-methylpyridin-4-yl)propan-2-ol | 1.63 mmol, 303 mg | ClC1=NC(=CC(=C1)C(C)(C)O)C | C9H12ClNO
reactant | Xantphos | 0.326 mmol, 189 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 2.45 mmol, 798 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,4-dimethoxybenzylamine | 6.53 mmol, 0.983 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.163 mmol, 149 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 2-{2-[(2,4-dimethoxybenzyl)amino]-6-methylpyridin-4-yl}propan-2-ol | COC1=C(CNC2=NC(=CC(=C2)C(C)(C)O)C)C=CC(=C1)OC | C18H24N2O3
